US08034812B2
Production of N-(3-{[2-(isobutyrylamino)imidazo[1,2-b]pyridazin-6-yl]oxy}phenyl)-1,3-dimethyl-1H-pyrazole-5-carboxamide
Using 1,3-dimethyl-1H-pyrazole-5-carboxylic acid (108 mg, 0.77 mmol), tetrahydrofuran (3.2 mL), N,N-dimethylformamide (30 μL, 0.39 mmol), oxalyl chloride (134 μL, 1.54 mmol), N-[6-(3-aminophenoxy)imidazo[1,2-b]pyridazin-2-yl]-2-methylpropanamide (200 mg, 0.64 mmol) and N,N-dimethylacetamide (4.0 mL) as starting materials and in the same manner as in Example 119, the title compound (201 mg, 72%) was obtained as a white powder.

reactant | 1,3-dimethyl-1H-pyrazole-5-carboxylic acid | 0.77 mmol, 108 mg | CN1N=C(C=C1C(=O)O)C | C6H8N2O2
reactant | N,N-dimethylformamide | 0.39 mmol, 30 μL | CN(C=O)C | C3H7NO
reactant | oxalyl chloride | 1.54 mmol, 134 μL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | N-[6-(3-aminophenoxy)imidazo[1,2-b]pyridazin-2-yl]-2-methylpropanamide | 0.64 mmol, 200 mg | NC=1C=C(OC=2C=CC=3N(N2)C=C(N3)NC(C(C)C)=O)C=CC1 | C16H17N5O2
solvent | N,N-dimethylacetamide | 4.0 mL | CN(C(C)=O)C | C4H9NO
solvent | tetrahydrofuran | 3.2 mL | O1CCCC1 | C4H8O
product | N-(3-{[2-(isobutyrylamino)imidazo[1,2-b]pyridazin-6-yl]oxy}phenyl)-1,3-dimethyl-1H-pyrazole-5-carboxamide | 201 mg, 72% | C(C(C)C)(=O)NC=1N=C2N(N=C(C=C2)OC=2C=C(C=CC2)NC(=O)C2=CC(=NN2C)C)C1 | C22H23N7O3
